US08017779B2
A solution of sodium dithionite (77.95 g, 380.6 mmol) and potassium carbonate (58.35 g, 422.2 mmol) in water (250 mL) was added dropwise to a mechanically stirred solution of 7-bromo-3-nitro[1,5]naphthyridin-4-yl-(2-methylpropyl)amine (27.6 g, 84.6 mmol) and ethyl viologen dibromide (0.63 g, 1.7 mmol) in dichloromethane (300 mL) and water (50 mL). The reaction mixture was stirred overnight at ambient temperature. Water (500 mL) was added, and the reaction mixture was stirred for 10 minutes. The organic layer was separated and the aqueous layer was filtered through WHATMAN paper to remove insoluble material. The emulsion-free filtrate was extracted with dichloromethane, washed sequentially with water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield 22.3 g of 7-bromo-N4-(2-methylpropyl)[1,5]naphthyridine-3,4-diamine as an orange solid.

reactant | sodium dithionite | 380.6 mmol, 77.95 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium carbonate | 422.2 mmol, 58.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-bromo-3-nitro[1,5]naphthyridin-4-yl-(2-methylpropyl)amine | 84.6 mmol, 27.6 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)C | C12H13BrN4O2
solvent | water | 250 mL | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
catalyst | ethyl viologen dibromide | 1.7 mmol, 0.63 g | CC[N+]1=CC=C(C=C1)C2=CC=[N+](C=C2)CC.[Br-].[Br-]
solvent | Water | 500 mL | O | H2O
product | 7-bromo-N4-(2-methylpropyl)[1,5]naphthyridine-3,4-diamine | 22.3 g | BrC1=CN=C2C(=C(C=NC2=C1)N)NCC(C)C | C12H15BrN4
